US06107521
A mixture of 2,6-dimethylphenyltrifluoromethylsulfonate (1.57 mmol), (S)-1methoxy-2-aminopropane (1.58 mmol), bis(dibenzylideneacetone)palladium (0.0312-0.078 mmol), tri-tert.-butylphosphine (0.0078 mmol) and sodium tert.-butoxide (1.88 mmol) is stirred under a nitrogen atmosphere in 2 mL of de-gassed toluene at room temperature (~25° C.). The reaction is monitored with thin layer chromatography. After three hours, the reaction slurry is loaded onto silica gel and purified by flash chromatography with 5-10% ethyl acetate in hexane to yield 90% of (S)-N-(1-methoxyprop-2-yl)-2,6-dimethylphenylamine.

reactant | (S)-1methoxy-2-aminopropane | 1.58 mmol | COC[C@H](C)N | C4H11NO
reactant | tri-tert.-butylphosphine | 0.0078 mmol | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium tert.-butoxide | 1.88 mmol | CC(C)([O-])C.[Na+]
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium | 0.0312-0.078 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | (S)-N-(1-methoxyprop-2-yl)-2,6-dimethylphenylamine | 90% | COC[C@H](C)NC1=C(C=CC=C1C)C | C12H19NO
